US08809376B2
{(S)-6-[(R)-4-Benzyl-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester (84 mg), benzylzinc bromide (0.5 mol/L in tetrahydrofuran, 1.2 ml) and tetrakis(triphenylphosphine)palladium (23 mg). Degassed tetrahydrofuran (1 mL) is added under Ar atmosphere, and the mixture is heated to 60° C. and shaken at this temperature overnight. The reaction mixture is acidified with 4 N aqueous hydrochloric acid (1 mL) and then neutralized with saturated aqueous ammonia solution. The organic phase is separated, diluted with N,N-dimethylformamide (1 mL), and purified by HPLC on reversed phase (MeCN/water) to give the title compound. LC (method 6): tR=1.19 min.

reactant | {(S)-6-[(R)-4-bromo-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | 84 mg | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)Br)=O | C20H18BrFO4
reactant | benzylzinc bromide | 0.5 mol/L, 1.2 ml | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | hydrochloric acid | 4 N, 1 mL | Cl | ClH
reactant | ammonia | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | {(S)-6-[(R)-4-Benzyl-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)CC2=CC=CC=C2)=O | C27H25FO4
